US04962110
Ethyl 3-[4-(1,4-dihydro-4-oxo-2-pyrimidinylamino)-benzoyl]butyrate
A stirred mixture of ethyl 3-(4-aminobenzoyl)butyrate and 2-methylthiouracil in dry pyridine are heated together to afford the title compound.

reactant | ethyl 3-(4-aminobenzoyl)butyrate | NC1=CC=C(C(=O)C(CC(=O)OCC)C)C=C1 | C13H17NO3
reactant | 2-methylthiouracil | CSC1=NC=CC(=O)N1 | C5H6N2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-[4-(1,4-dihydro-4-oxo-2-pyrimidinylamino)-benzoyl]butyrate | O=C1N=C(NC=C1)NC1=CC=C(C(=O)C(CC(=O)OCC)C)C=C1 | C17H19N3O4
